US03947416
Preparation of 3-Methyl-2,4(1H,3H)- Quinazolinedione
A 50 ml. flask was charged with 1.0 g. N-methylphthalamide suspended in 11 ml. dimethylformamide. A 2.6 g. portion of lead tetra-acetate was added to the suspension, and the reaction mixture stirred at 40°-50° for 2 hours. The reaction mixture was diluted with 15 ml. water, cooled and filtered. The yield amounted to 0.89 g., melting point 230°-232°, representing 88 percent of theory based on the N-methylphthalamide. The structure was confirmed by infrared spectroscopy.

reactant | N-methylphthalamide | CNC(C=1C(C(=O)N)=CC=CC1)=O | C9H10N2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | lead tetra-acetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | water | O | H2O
product | 3-Methyl-2,4(1H,3H)- Quinazolinedione | CN1C(NC2=CC=CC=C2C1=O)=O | C9H8N2O2
